US06281363B1
A solution of 1.1 g of N-(3-benzyl-2,5-dioxo-1-imidazolidinyl)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide in 20 ml of methanol was hydrogenated in the presence of 0.100 g of 10% palladium-on-carbon for 3 hours. The mixture was filtered and evaporated and the residue was triturated with diethyl ether to give 0.444 g of N-(3-benzyl-2,5-dioxo-1-imidazolidinyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide in the form of a white solid.

reactant | N-(3-benzyl-2,5-dioxo-1-imidazolidinyl)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide | 1.1 g | C(C1=CC=CC=C1)N1C(N(C(C1)=O)NC([C@H](CC(C)C)[C@H](CC=CC1=CC=CC=C1)C(NOCC1=CC=CC=C1)=O)=O)=O | C34H38N4O5
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.100 g | [Pd] | Pd
product | N-(3-benzyl-2,5-dioxo-1-imidazolidinyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide | 0.444 g | C(C1=CC=CC=C1)N1C(N(C(C1)=O)NC([C@H](CC(C)C)[C@H](CCCC1=CC=CC=C1)C(NO)=O)=O)=O | C27H34N4O5
